US07247625B2
4,4-diethyl-6-[(3-fluoro-5-nitrophenyl)amino]-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 1-fluoro-3-iodo-5-nitrobenzene according to the coupling protocol of example 2. 1H NMR (DMSO-d6): δ 8.92 (s, 1H), 7.53 (t, J=1.8 Hz, 1H), 7.36 (dt, J=8.6, 2.2 Hz, 1H), 7.21 (dd, J=8.7, 2.4 Hz, 1H), 7.12 (d, J=8.7 Hz, 1H), 7.06 (d, J=2.4 Hz, 1H), 7.03 (dt, J=11.1, 2.2 Hz, 1H), 3.29 (s, 3H), 2.01 (m, 4H), 0.82 (t, J=7.3 Hz, 6H); MS (ESI) m/z 374 ([M+H]+); MS (ESI) m/z 372 ([M−H]−); Anal. calcd for C19H20FN3O4: C, 61.12; H, 5.40; N, 11.25. Found: C, 60.33; H, 5.17; N, 10.51.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 1-fluoro-3-iodo-5-nitrobenzene | FC1=CC(=CC(=C1)[N+](=O)[O-])I | C6H3FINO2
product | 4,4-diethyl-6-[(3-fluoro-5-nitrophenyl)amino]-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | C(C)C1(OC(N(C2=C1C=C(C=C2)NC2=CC(=CC(=C2)[N+](=O)[O-])F)C)=O)CC | C19H20FN3O4
